US09126950B2
Into a 50 mL autoclave was charged Pd—C (0.025 g). MeOH was added under nitrogen. A solution of N4-(2-(benzyloxy)-5-nitrophenyl)-5-fluoro-N2-(4-(2-methoxyethoxy)phenyl)pyrimidine-2,4-diamine (0.10 g) in methanol and THF was added to the suspension. The autoclave was flushed with nitrogen and 8 kg/cm2 Hydrogen pressure was applied. The reaction mixture was stirred at room temperature for 18 h at same pressure. After completion, the reaction mixture was filtered using Celite and the filter cake was washed with methanol. The filtrate was concentrated under reduced pressure at 40° C. to give 0.08 g of 4-amino-2-((5-fluoro-2-((4-(2-methoxyethoxy)phenyl)amino)pyrimidin-4-yl)amino)phenol. Crude material was taken in next step without further purification.

reactant | N4-(2-(benzyloxy)-5-nitrophenyl)-5-fluoro-N2-(4-(2-methoxyethoxy)phenyl)pyrimidine-2,4-diamine | 0.10 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])NC1=NC(=NC=C1F)NC1=CC=C(C=C1)OCCOC | C26H24FN5O5
solvent | methanol | CO | CH4O
solvent | THF | C1CCOC1 | C4H8O
catalyst | Pd—C | 0.025 g | [Pd] | Pd
product | 4-amino-2-((5-fluoro-2-((4-(2-methoxyethoxy)phenyl)amino)pyrimidin-4-yl)amino)phenol | 0.08 g | NC1=CC(=C(C=C1)O)NC1=NC(=NC=C1F)NC1=CC=C(C=C1)OCCOC | C19H20FN5O3
